US04612386
Methyl 3,5,6-trichloro-2-pyridyl carbonate was prepared by reacting methyl chloroformate with 3,5,6-trichloro-2-pyridinol at 0° C.-5° C. in the presence of an equivalent of pyridine as acid acceptor and using methylene chloride as the reaction solvent.

reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | 3,5,6-trichloro-2-pyridinol | ClC=1C(=NC(=C(C1)Cl)Cl)O | C5H2Cl3NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 3,5,6-trichloro-2-pyridyl carbonate | C(OC)(OC1=NC(=C(C=C1Cl)Cl)Cl)=O | C7H4Cl3NO3
